US04234584
Stage 1: Preparation of 5-(3-bromopropyloxy)-1-methyl-2-indolinone
A mixture of 11.9 g of 5-hydroxy-1-methyl-2-indolinone, 29.2 g of 1,3-dibromopropane, 11 g of potassium carbonate, 1 g of potassium iodide and 75 ml of ethylmethyl ketone is refluxed for 20 hours. The mixture is then diluted with 300 ml of methylene dichloride, washed with water and the solvent is removed under reduced pressure.

reactant | 5-hydroxy-1-methyl-2-indolinone | 11.9 g | OC=1C=C2CC(N(C2=CC1)C)=O | C9H9NO2
reactant | 1,3-dibromopropane | 29.2 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | methylene dichloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | ethylmethyl ketone | 75 ml | C(C)C(=O)C | C4H8O
product | 5-(3-bromopropyloxy)-1-methyl-2-indolinone | BrCCCOC=1C=C2CC(N(C2=CC1)C)=O | C12H14BrNO2
